data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_619497_0,[C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])([C:4](=[C:5]([H:16])[H:17])[H:9])[O:6][N:7][O:8]>>[C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])([O:6][C:4](=[C:5]([H:16])[H:17])[H:9])[N:7]=[O:8],72.67767750002477
MR_377229_1,[C@@:1]([C:2]([H:18])([H:19])[H:20])([N:3]([N:5]([H:11])[H:12])[H:9])(/[C:4]([N:6]([H:13])[H:14])=[C:8](/[N:7]([H:15])[H:16])[H:17])[H:10]>>[C:1](\[C:2]([H:18])([H:19])[H:20])(=[C:4](\[N:6]([H:13])[H:14])[C@@:8]([N:3]([N:5]([H:11])[H:12])[H:9])([N:7]([H:15])[H:16])[H:17])[H:10],55.66050499997189
MR_378224_0,[C:1]([C:2]([C:5]([H:20])([H:21])[H:22])([H:12])[H:13])([C:4]([H:17])([H:18])[H:19])([N:6]([O:8][C:3]([H:14])([H:15])[H:16])[H:9])[N:7]([H:10])[H:11]>>[C:1]([C:4]([H:17])([H:18])[H:19])([N:6]([C:2]([C:5]([H:20])([H:21])[H:22])([H:12])[H:13])[H:9])([N:7]([H:10])[H:11])[O:8][C:3]([H:14])([H:15])[H:16],64.93683750002177
MR_576383_0,[C@@:1]([C:4]([C:2]([H:16])([H:17])[H:18])=[O:9])(/[C:5]([C:3]([H:19])([H:20])[H:21])=[C:8](/[N:7]([H:13])[H:14])[H:15])([N:6]([H:11])[H:12])[H:10]>>[C:1](=[C:5](/[C:3]([H:19])([H:20])[H:21])[C@:8]([C:4]([C:2]([H:16])([H:17])[H:18])=[O:9])([N:7]([H:13])[H:14])[H:15])(\[N:6]([H:11])[H:12])[H:10],58.82373250004676
MR_589368_0,[C@@:1]1([O:6][H:7])([H:8])[C@@:2]([C:3]([H:10])([H:11])[H:12])([H:9])[O:5][O:4]1>>[C:1]([C@:2]([C:3]([H:10])([H:11])[H:12])([O:5][O:4][H:7])[H:9])(=[O:6])[H:8],38.81464000002154
MR_675927_2,[C:1]([C:2](/[C:4]([O:7][C:3]([H:17])([H:18])[H:19])=[N:8]\[H:13])([H:14])[H:15])([N:5]([H:11])[H:12])([C:6](=[O:9])[H:16])[H:10]>>[C:1](\[C:2](/[C:4]([O:7][C:3]([H:17])([H:18])[H:19])=[N:8]\[H:13])([H:14])[H:15])([N:5]([H:11])[H:12])=[C:6](\[O:9][H:10])[H:16],68.34039750002489
MR_228362_0,[N:1]([N:2]([H:8])[H:9])(/[C:4](=[N:7]\[N:3]([H:10])[H:11])[H:12])[N:6]=[C:5]([H:13])[H:14]>>[N:1](\[N:2]([H:8])[H:9])=[C:4](/[N:7]([N:3]([H:10])[H:11])[N:6]=[C:5]([H:13])[H:14])[H:12],60.049240000020205
MR_605435_1,[C:1]([C:2]([H:14])([H:15])[H:16])(/[C:4]([C:3]([H:17])([H:18])[H:19])=[C:6](/[O:8][H:9])[H:13])([O:7][N:5]([H:11])[H:12])[H:10]>>[C:1](\[C:2]([H:14])([H:15])[H:16])(=[C:4](\[C:3]([H:17])([H:18])[H:19])[C:6]([O:7][N:5]([H:11])[H:12])([O:8][H:9])[H:13])[H:10],42.55265750000064
MR_507329_0,[C:1]1([O:5][C:4]([C:3]([H:11])([H:12])[H:13])=[O:7])([H:8])[C:2]([H:9])([H:10])[O:6]1>>[C:1]([C:2]([O:6][C:4]([C:3]([H:11])([H:12])[H:13])=[O:7])([H:9])[H:10])(=[O:5])[H:8],44.01912500000776
MR_219735_1,[C:1]([C:4]([N:2]([C:3]([O:6][H:10])=[O:7])[O:5][H:9])=[O:8])([H:11])([H:12])[H:13]>>[C:1]([C:4]([O:7]/[C:3](=[N:2]/[O:5][H:9])[O:6][H:10])=[O:8])([H:11])([H:12])[H:13],39.90900000004075
MR_613888_2,[C:1](/[C:2](=[C:3](\[N:7]([H:17])[H:18])[C:8](=[C:9]([H:20])[H:21])[H:19])[N:6]([H:15])[H:16])([N:4]([H:11])[H:12])([N:5]([H:13])[H:14])[H:10]>>[C:1](/[C:3](=[C:2](\[N:6]([H:15])[H:16])[C:8](=[C:9]([H:20])[H:21])[H:19])[N:7]([H:17])[H:18])([N:4]([H:11])[H:12])([N:5]([H:13])[H:14])[H:10],62.47201750000272
MR_422688_0,[C:1]([C:2]([N:5]=[O:6])([H:10])[H:11])([C:3](=[O:7])[H:12])([O:4][H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:7])[H:12])([H:10])[H:11])([O:4][H:8])([N:5]=[O:6])[H:9],68.73572250002553
MR_301830_0,[C:1](/[C:3](=[C:2](\[N:4]([H:10])[H:11])[N:8]=[C:6]([H:16])[H:17])[N:5]([H:12])[H:13])([O:7][H:9])([H:14])[H:15]>>[C:1](/[C:2](=[C:3](\[N:5]([H:12])[H:13])[N:8]=[C:6]([H:16])[H:17])[N:4]([H:10])[H:11])([O:7][H:9])([H:14])[H:15],67.41106999998138
MR_239824_0,[C:1]([C:3]([N:5]([H:11])[H:12])=[C:6]([H:16])[H:17])([N:4]([H:9])[H:10])([O:7][C:2]([H:13])([H:14])[H:15])[H:8]>>[C:1]1([N:4]([H:9])[H:10])([H:8])[C:3]([N:5]([H:11])[H:12])([O:7][C:2]([H:13])([H:14])[H:15])[C:6]1([H:16])[H:17],59.777532499992816
MR_137793_1,[C:1](/[C:4]([N:6]([H:11])[H:12])=[N:8]\[C:3]([N:5]([H:9])[H:10])=[C:7](\[C:2]([H:17])([H:18])[H:19])[H:13])([H:14])([H:15])[H:16]>>[C:1]([C:4]1([N:6]([H:11])[H:12])[C:7]([C:2]([H:17])([H:18])[H:19])([H:13])[C:3]([N:5]([H:9])[H:10])=[N:8]1)([H:14])([H:15])[H:16],31.12588249999405
MR_211672_1,[C:1](/[C:3]([C:2]([H:13])([H:14])[H:15])=[N:7]\[H:9])(/[C:4](=[N:6]/[O:5][H:8])[H:12])([H:10])[H:11]>>[C:1](=[C:4]([N:6](/[C:3]([C:2]([H:13])([H:14])[H:15])=[N:7]\[H:9])[O:5][H:8])[H:12])([H:10])[H:11],70.39357749997748
MR_705891_1,[C:1]([C:3](=[C:5](\[C:2]([H:14])([H:15])[H:16])[H:10])/[N:6]=[N:7]\[C:4](=[O:8])[H:9])([H:11])([H:12])[H:13]>>[C:1]([C:3]1([C:5]([C:2]([H:14])([H:15])[H:16])([C:4](=[O:8])[H:9])[H:10])[N:6]=[N:7]1)([H:11])([H:12])[H:13],54.17458499997821
MR_119809_0,[C:1]([C:4]([C:2]([H:11])([H:12])[H:13])=[C:3]([O:6][H:8])[N:7][C:5]([H:15])[H:16])([H:9])([H:10])[H:14]>>[C:1]([C:4]1([C:2]([H:11])([H:12])[H:13])[C:3]([O:6][H:8])=[N:7][C:5]1([H:15])[H:16])([H:9])([H:10])[H:14],37.25467500000079
MR_663233_0,[C:1](=[C:4](/[N:2]([H:9])[H:10])[H:12])(\[O:5][C:3](=[O:7])[H:11])[O:6][H:8]>>[C:1]1([C:3](=[O:7])[H:11])([O:6][H:8])[C:4]([N:2]([H:9])[H:10])([H:12])[O:5]1,40.18949250001029
